US08580967B2
{[(3S,11aR)-8-({[(2,4-Difluorophenyl)methyl]amino}carbonyl)-3-methyl-5,7-dioxo-2,3,5,7,11,11a-hexahydro[1,3]oxazolo[3,2-a]pyrido[1,2-d]pyrazin-6-yl]oxy}methyl 2-{[3-(1H-imidazol-1-yl)propyl]amino}-2-oxoethyl carbonate
The title compound was prepared from ({[({[(3S,11aR)-8-({[(2,4-difluorophenyl)methyl]amino}carbonyl)-3-methyl-5,7-dioxo-2,3,5,7,11,11a-hexahydro[1,3]oxazolo[3,2-a]pyrido[1,2-d]pyrazin-6-yl]oxy}methyl)oxy]carbonyl}oxy)acetic acid (63 mg, 0.112 mmol), [3-(1H-imidazol-1-yl)propyl]amine (0.02 mL, 0.176 mmol), N,N-diisopropylethylamine (0.03 mL, 0.176 mmol), and HATU (67 mg, 0.176 mmol), using a process similar to that described in example 16, step (a). Purification by silica gel chromatography yielded the title compound as a white solid. 1H NMR (CDCl3) δ 10.04 (m, 1 H), 8.16 (s, 1H), 7.54 (m, 1H), 7.47 (s, 1H), 7.30 (m, 1H), 6.94 (s, 1H), 6.87 (s, 1H), 6.77 (m, 2H), 6.00 (d, J=6.8 Hz, 1H), 5.65 (d, J=6.8 Hz, 1H), 5.31-5.25 (m, 2H), 4.62-4.41 (m, 4H), 4.31 (m, 1H), 4.19 (m, 1H), 4.01-3.29 (m, 3H), 3.02 (m, 1H), 3.36 (m, 1H), 3.03 (m, 1H), 1.97 (m, 2H), 1.28 (d, J=6.4 Hz, 3H). ES+ MS: 645 (M+1).

reactant | ({[({[(3S,11aR)-8-({[(2,4-difluorophenyl)methyl]amino}carbonyl)-3-methyl-5,7-dioxo-2,3,5,7,11,11a-hexahydro[1,3]oxazolo[3,2-a]pyrido[1,2-d]pyrazin-6-yl]oxy}methyl)oxy]carbonyl}oxy)acetic acid | 0.112 mmol, 63 mg | FC1=C(C=CC(=C1)F)CNC(=O)C=1C(C(=C2N(C[C@@H]3N(C2=O)[C@H](CO3)C)C1)OCOC(=O)OCC(=O)O)=O | C23H21F2N3O10
reactant | [3-(1H-imidazol-1-yl)propyl]amine | 0.176 mmol, 0.02 mL | N1(C=NC=C1)CCCN | C6H11N3
reactant | N,N-diisopropylethylamine | 0.176 mmol, 0.03 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HATU | 0.176 mmol, 67 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
product | {[(3S,11aR)-8-({[(2,4-Difluorophenyl)methyl]amino}carbonyl)-3-methyl-5,7-dioxo-2,3,5,7,11,11a-hexahydro[1,3]oxazolo[3,2-a]pyrido[1,2-d]pyrazin-6-yl]oxy}methyl 2-{[3-(1H-imidazol-1-yl)propyl]amino}-2-oxoethyl carbonate | C(OCOC=1C(C(=CN2C[C@@H]3N(C(C21)=O)[C@H](CO3)C)C(=O)NCC3=C(C=C(C=C3)F)F)=O)(OCC(=O)NCCCN3C=NC=C3)=O | C29H30F2N6O9
